Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is an ___ year old man with a past medical history of 
HTN, CAD, DM, hypothyroidism who was found unresponsive this am. 
EMS was called, who would have intubated the patient in the 
field but family declined. Blood pressure in the field was 
notable for systolics in the 240s and he was given labetalol. He 
was brought to ___ ED, where a ___ showed a devastating 
large right hemispheric hemorrhage with midline shift and uncal 
herniation. Blood pressure on arrival still 220. Neurology and 
neurosurgery were both consulted.

Family arrived shortly thereafter and were clear that the 
patient would not want any heroic measures, given the 
devastating bleed and poor prognosis. The decision was made to 
make the patient CMO in the emergency room.

ROS not obtained due to patient obtundation
 
Past Medical History:
- CAD, s/p MI, vfib arrest
- Aflutter
- DM2
- HTN
- Hypothyroidism
- Osteoarthritis
- Hearing loss
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION EXAM:
Vitals: T:  P: 60s R: 16  BP:  220/100 SaO2: 95% NC
General: Comatose.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple,
Pulmonary: Lungs CTA, upper respiratory noise
Cardiac: RRR
Abdomen: soft
Extremities: No C/C/E bilaterally

Neurologic:
-Mental Status: Comatose, unresponsive to noxious stimuli. Gaze 
midline.

-Cranial Nerves:
I: Olfaction not tested.
II: Right pupil 4mm, unreactive. L pupil 2mm minimally reactive.
III, IV, VI: VOR limited.
V: Left corneal intact, right minimal.
VII: R NLF flattening.

-Motor: Normal bulk, flaccid in the bilateral upper and lower 
extremities, does not withdraw or posture to noxious stimuli.

-Sensory: Does not respond to noxious stimuli.

-DTRs: Trace throughout. Toes mute.

DISCHARGE EXAM:
Deceased
 
Pertinent Results:
ADMISSION LABS:
___ 01:30PM BLOOD WBC-15.5* RBC-5.95 Hgb-18.2* Hct-55.1* 
MCV-93 MCH-30.6 MCHC-33.0 RDW-14.8 Plt ___
___ 01:30PM BLOOD ___ PTT-25.0 ___
___ 01:30PM BLOOD ___ 01:30PM BLOOD UreaN-28* Creat-1.7*
___ 01:46PM BLOOD Glucose-295* Lactate-2.4* Na-139 K-4.3 
Cl-101 calHCO3-26
___ 01:30PM BLOOD Lipase-23
___ 01:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGING:
CT Head
IMPRESSION: 
1. Large 6.3 x 7.6 x 5.7 cm acute right frontal parenchymal 
hemorrhage with extension into the ventricles, right temporal 
lobe, and midbrain.
2. Marked subfalcine and downward transtentorial herniation with 
compression of the brainstem.
3. 15 mm leftward shift of midline structures.
4. Effacement of the right lateral ventricle with obstructive 
hydrocephalus of the left lateral ventricle.
 
Brief Hospital Course:
___ presented after being found unresponsive and was 
found to have a large intraparenchymal hemorrhage with 
significant mass effect, midline shift and brainstem 
compression. Dr. ___ Neurosurgery evaluated the patient 
and determined that surgical evacuation would be futile. He was 
made comfort measures only per the wishes of his family and 
passed away.
 
Medications on Admission:
(per OMR):
ALBUTEROL SULFATE [VENTOLIN HFA] - Ventolin HFA 90 mcg/actuation 
aerosol inhaler. 1 puff inh twice a day -  (Prescribed by Other 
Provider)
AMIODARONE - amiodarone 200 mg tablet. 1 tablet(s) by mouth once 
a day -  (Prescribed by Other Provider)
CARVEDILOL - carvedilol 12.5 mg tablet. 1 tablet(s) by mouth 
twice a day -  (Prescribed by Other Provider)
ESCITALOPRAM OXALATE - escitalopram 20 mg tablet. 1 tablet(s) by 
mouth once a day -  (Prescribed by Other Provider)
HYDRALAZINE - hydralazine 25 mg tablet. 1 tablet(s) by mouth 
once a day -  (Prescribed by Other Provider)
ISOSORBIDE MONONITRATE - isosorbide mononitrate ER 30 mg 
tablet,extended release 24 hr. 0.5 (One half) tablet(s) by mouth 
once a day -  (Prescribed by Other Provider)
LEVOTHYROXINE - levothyroxine 125 mcg tablet. 1 tablet(s) by 
mouth once a day
METFORMIN - metformin 500 mg tablet. 1 tablet(s) by mouth twice 
a day -  (Dose adjustment - no new Rx)
ASPIRIN - aspirin 325 mg tablet. 1 Tablet(s) by mouth once a day
 
Discharge Medications:
deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
deceased
 
Discharge Condition:
deceased
 
Discharge Instructions:
deceased
 
Followup Instructions:
___